US05107011
A. Tributyl[[(3,7,11-trimethyl-2,6,10-dodecatrienyl)oxy]methyl]tin
A 1.15 g (10.0 mmol) of 35% KH in mineral oil was washed with three 5 mL portions of dry hexane and suspended in 15 mL of dry tetrahydrofuran (THF) under argon. A solution of 242 mg (0.95 mmol) of iodine in 10 mL of THF was added over 50 minutes and the reaction was allowed to stir for an additional 40 minutes at room temperature to give a white suspension. (E,E)-Farnesol (1.5 g, 6.75 mmol) in 10 mL of THF was added dropwise over 15 minutes, and after 75 minutes, a solution of 2.43 g (5.64 mmol) of tributyl(iodomethyl)tin was added rapidly in 6 mL of THF. The mixture was stirred for three hours and carefully quenched with methanol Upon dilution with diethyl ether, the organic layer was washed with water and brine, dried (MgSO4) and evaporated to give 3.21 g of a pale yellow liquid The crude material was chromatographed on 720 g of silica gel eluted with 0.5:99.5 diethyl ether: petroleum ether, and the impure fractions were further purified on 150 g of silica gel eluted with 0.33:99.67 diethyl ether:petroleum ether to provide a total of 2.09 g (71%) of pure title stannane as a colorless liquid.

reactant | iodine | 0.95 mmol, 242 mg | II | I2
reactant | (E,E)-Farnesol | 6.75 mmol, 1.5 g | OC\C=C(/C)\CC\C=C(/C)\CCC=C(C)C | C15H26O
reactant | tributyl(iodomethyl)tin | 5.64 mmol, 2.43 g | C(CCC)[Sn](CI)(CCCC)CCCC
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 6 mL | O1CCCC1 | C4H8O
product | Tributyl[[(3,7,11-trimethyl-2,6,10-dodecatrienyl)oxy]methyl]tin | 3.21 g | C(CCC)[Sn](COCC=C(CCC=C(CCC=C(C)C)C)C)(CCCC)CCCC | InChI=1S/C16H27O.3C4H9.Sn/c1-14(2)8-6-9-15(3)10-7-11-16(4)12-13-17-5;3*1-3-4-2;/h8,10,12H,5-7,9,11,13H2,1-4H3;3*1,3-4H2,2H3;
